US04225534
4.55 parts of 4-chloro-2-nitrobenzonitrile, 0.42 parts of lithium chloride, 1.11 parts of anhydrous aluminum chloride and 15 parts of N-methyl-2-pyrrolidone were reacted at 180° C. for 3 hours after the pattern of EXAMPLE B1. The reaction solution was added with 100 parts of dichloroethane, agitated for 30 minutes and filtered. Dichloroethane was distilled off from the filtrate and the residue was added with water to precipitate the crude crystals. The crude crystals were recrystallized by using a water-methanol mixed solvent to obtain 3.4 parts of 2,4-dichlorobenzonitrile with purity of 99%. Yield: 79.2%.

reactant | 4-chloro-2-nitrobenzonitrile | ClC1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | lithium chloride | [Cl-].[Li+]
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | N-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 2,4-dichlorobenzonitrile | Yield: 79.2% | ClC1=C(C#N)C=CC(=C1)Cl | C7H3Cl2N
